US20010049379A1
A. 4-Bromo-1-benzyloxy-naphthalene
The above oil was dissolved in 100 mL acetonitrile, and treated with 3.57 mL (30 mmol) benzyl bromide and 5.53 g (40 mmol) potassium carbonate, the refluxed 14 hours. TLC showed a major spot at Rf=0.2 in 5% methylene chloride/hexane. The reaction was cooled, poured into dilute aqueous hydrochloric acid/ethyl acetate, and the organic layer separated, washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methylene chloride/hexane as eluant to afford 5.8 g (93%) of an oil.

reactant | benzyl bromide | 30 mmol, 3.57 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 40 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid ethyl acetate | Cl.C(C)(=O)OCC
reactant | methylene chloride hexane | C(Cl)Cl.CCCCCC
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-Bromo-1-benzyloxy-naphthalene | 5.8 g, 93% | BrC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1 | C17H13BrO
